US06890940B2
The crude 3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)-aniline hydrochloride prepared by the above-described procedure was suspended in water (16 mL), and to the ice-cold suspension were added concentrated hydrochloric acid (0.26 mL, 3.1 mmol) and a solution of sodium nitrite (227.0 mg, 3.29 mmol) in water (2.0 mL) dropwise over about 5 minutes. The resulting mixture was stirred for 15 minutes, and a solution of potassium iodide (562.0 mg, 3.44 mmol) in water (2.0 mL) was added. The reaction mixture was stirred at room temperature for 1 hour and at 50° C. for 15 minutes, then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 1-iodo-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)benzene as a colorless oil [1.00 g, yield: 88% based on N-t-butoxy-carbonyl-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)aniline].

reactant | 3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)-aniline hydrochloride | Cl.COC=1C=C(N)C=C(C1OCC(F)(F)F)OC
reactant | hydrochloric acid | 3.1 mmol, 0.26 mL | Cl | ClH
reactant | sodium nitrite | 3.29 mmol, 227.0 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 3.44 mmol, 562.0 mg | [I-].[K+]
solvent | water | 16 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
product | 1-iodo-3,5-dimethoxy-4-(2,2,2-trifluoroethoxy)benzene | yield: 88% | IC1=CC(=C(C(=C1)OC)OCC(F)(F)F)OC | C10H10F3IO3
